US05807873
35.5 g (0.1275 mol) of 3-fluoro-4'-methanesulfonylbenzophenone, prepared in Example 10, are added in portions to a solution of 15.7 g (0.140 mol) of potassium t-butoxide in 100 ml of t-butanol. The mixture is stirred and 32 ml (0.191 mol) of ethyl succinate are added dropwise at a rapid rate. The mixture is subsequently refluxed for 30 minutes and cooled, water and 1N hydrochloric acid are added to bring the pH to 1 and the mixture is then extracted with t-butyl methyl ether. The organic phase is treated with 2% sodium hydroxide solution and the mixture is decanted. The aqueous phase is acidified with 1N hydrochloric acid and then extracted with t-butyl methyl ether. The organic phase is dried over magnesium sulfate and evaporated under vacuum to give 39.2 g of 3-ethoxycarbonyl-4-(3-fluorophenyl)-4-(4-methanesulfonylphenyl)-3-butenoic acid in the form of a thick oil, which is used as such in the next step.

reactant | 3-fluoro-4'-methanesulfonylbenzophenone | 0.1275 mol, 35.5 g | FC=1C=C(C(=O)C2=CC=C(C=C2)S(=O)(=O)C)C=CC1 | C14H11FO3S
reactant | potassium t-butoxide | 0.140 mol, 15.7 g | CC(C)([O-])C.[K+]
reactant | ethyl succinate | 0.191 mol, 32 ml | C(CCC(=O)[O-])(=O)OCC
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 3-ethoxycarbonyl-4-(3-fluorophenyl)-4-(4-methanesulfonylphenyl)-3-butenoic acid | 39.2 g | C(C)OC(=O)C(CC(=O)O)=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC(=CC=C1)F | C20H19FO6S
